US04876350
Production of (3aS,6aR)-[(R)-(1-phenylethyl)]-3-methoxymethyl-dihydro-1H-furo-[3,4-d]-imidazol2,4-(3H,3aH)-dione
4.0 g (93 mmol) sodium hydride (55 percent in oil) was added in 10 portions in 2 hours at -10° C. under argon to a solution of 19 g (77 mmol) of (3as,6aR)[(R)-(1-phenylethyl)]-dihydro-1H-furo-[3,4-d]-imidazol-2,4-(3H,3aH)-dione and 9.42 g (120 mmol) of chloromethyl methyl ether in 200 ml of dried N,N-dimethylformamide. The reaction mixture was stirred at 5° C. for 2 hours and then at room temperature for another 2 hours. Then 2 ml of acetic acid was added. Then the mixture was evaporated to dryness. Then the residue was taken up in 50 ml of water and 100 ml of dichloromethane, the phases were separated and the aqueous phase was extracted 2 times with 100 ml of dichloromethane. The organic phases were dried over magnesium sulfate and concentrated. After chromatographing the oily residue over silica gel with 500 ml of dichloromethane/ethyl acetate and concentration of the fractions 4.0 g (18 percent) of the title product was obtained as white powder. Concerning the product:

reactant | sodium hydride | 93 mmol, 4.0 g | [H-].[Na+]
reactant | (3as,6aR)[(R)-(1-phenylethyl)]-dihydro-1H-furo-[3,4-d]-imidazol-2,4-(3H,3aH)-dione | 77 mmol, 19 g | C1(=CC=CC=C1)[C@@H](C)N1C(N[C@H]2[C@@H]1COC2=O)=O | C13H14N2O3
reactant | chloromethyl methyl ether | 120 mmol, 9.42 g | COCCl | C2H5ClO
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (3aS,6aR)-[(R)-(1-phenylethyl)]-3-methoxymethyl-dihydro-1H-furo-[3,4-d]-imidazol2,4-(3H,3aH)-dione | C1(=CC=CC=C1)[C@@H](C)N1C(N([C@H]2[C@@H]1COC2=O)COC)=O | C15H18N2O4
